US09255089B2
To a solution of 4-(3,5-dimethylisoxazol-4-yl)-2-iodo-6-nitroaniline (393 g, 1.09 mol, 1.0 eq) in ethanol (4 L) was added tin (II) chloride (1.03 kg, 5.46 mol, 5.0 eq). The reaction mixture was stirred at 75° C. for 10 h. The solvent was evaporated and the residue was dissolved in EtOAc (5 L), washed with 1 N sodium hydroxide (3×1 L) (the solid precipitated out should be filtered). The organic phase was dried over Na2SO4 and the solvent was removed to give a residue. The residue was purified by flash chromatography on silica (PE/EA=2:1-3:2) to give 253 g of 5-(3,5-dimethylisoxazol-4-yl)-3-iodobenzene-1,2-diamine as a slightly brown solid.

reactant | 4-(3,5-dimethylisoxazol-4-yl)-2-iodo-6-nitroaniline | 1.09 mol, 393 g, 1.0 eq | CC1=NOC(=C1C1=CC(=C(N)C(=C1)[N+](=O)[O-])I)C | C11H10IN3O3
reactant | tin (II) chloride | 5.46 mol, 1.03 kg, 5.0 eq | [Sn](Cl)Cl
solvent | ethanol | 4 L | C(C)O | C2H6O
product | 5-(3,5-dimethylisoxazol-4-yl)-3-iodobenzene-1,2-diamine | 253 g | CC1=NOC(=C1C1=CC(=C(C(=C1)N)N)I)C | C11H12IN3O
